US05565485
Step A: Preparation of methyl α-(4-hydroxymethyl-2-n-propylphenoxy)-3,4-methylenedioxyphenylacetat
To a solution of 3.84 g (23.13 mmol) of 4-hydroxy-3-n-propylbenzyl alcohol dissolved in 70 mL of anhydrous DMF was added 9.04 g (27.7 mmol) of cesium carbonate and the reaction mixture was magnetically stirred at room temperature for 15 minutes. Methyl α-bromo-3,4-methylenedioxyphenylacetate (7.58 g; 27.7 mmol) was added and the reaction mixture was then stirred for an additional 14 hours at room temperature under a nitrogen atmosphere. The reaction was then partitioned between 5% aqueous citric acid (700 mL) and EtOAc (100 mL) and extracted. The organic layer was separated, washed with saturated aqueous NaCl, dried (MgSO4), filtered and evaporated. The residue was purified on a silica gel flash chromatography column eluted with 40% EtOAc-hexane. The purified fractions were combined, evaporated, and dried in vacuo to afford 6.74 g (81%) of the title compound as a yellow oil.

reactant | 4-hydroxy-3-n-propylbenzyl alcohol | 23.13 mmol, 3.84 g | OC1=C(C=C(CO)C=C1)CCC | C10H14O2
reactant | cesium carbonate | 27.7 mmol, 9.04 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Methyl α-bromo-3,4-methylenedioxyphenylacetate | 27.7 mmol, 7.58 g | BrC(C(=O)OC)C1=CC2=C(C=C1)OCO2 | C10H9BrO4
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
product | methyl α-(4-hydroxymethyl-2-n-propylphenoxy)-3,4-methylenedioxyphenylacetat | 6.74 g, 81% | OCC1=CC(=C(OC(C(=O)OC)C2=CC3=C(C=C2)OCO3)C=C1)CCC | C20H22O6
